US07884109B2
4-Azido-3,4-dihydro-2H-pyrano[2,3-b]pyridine.
(Prep ref: Phompson, A. S. et. al. J. Org. Chem., 1993, 58, 5886-5888). Diphenyl phosphoryl azide (0.81 mL) was added to a suspension of 3,4-dihydro-2H-pyrano[2,3-b]pyridin-4-ol (0.37 g) in dry toluene (10 mL) then the mixture was cooled to 0° C. under an Ar atmosphere. Neat DBU (0.56 mL) was added and the resultant biphasic mixture was stirred at 0° C. for 2 hr and then at RT for 15 hr. The biphasic solution was diluted with sat. NaHCO3 and extracted with DCM (2×). The combined organics were concentrated and purified by silica gel chromatography using 10, 25 and 50% EtOAc/Hex elutants to afford the titled product (0.31 g) NMR CDCl3 1H δ 8.2 (dd, 1H), 7.6 (dd, 1H), 7.0 (dd, 1H), 4.7 (dd, 1H), 4.4 (m, 2H), 2.2 (m, 1H), 2.1 (m, 1H); MH+=177.

reactant | Diphenyl phosphoryl azide | 0.81 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 3,4-dihydro-2H-pyrano[2,3-b]pyridin-4-ol | 0.37 g | O1CCC(C=2C1=NC=CC2)O | C8H9NO2
reactant | DBU | 0.56 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 4-Azido-3,4-dihydro-2H-pyrano[2,3-b]pyridine | 0.31 g | N(=[N+]=[N-])C1CCOC2=NC=CC=C21 | C8H8N4O
